US05504107
Pentadecyltriphenylphosphonium Bromide.
Under nitrogen atmosphere 1-bromopentadecane (6.5 g, 22.4 mmol) was treated with 5.87 g (22.4 mmol) of triphenylphosphine in 15 mL of acetonitrile and heated to 135° C. The reaction was monitored by TLC (salt formation, about 18 hours), and the mixture was dried under reduced pressure (24 hours) to ensure removal of traces of acetonitrile and provided 12.3 g of a colorless solid which was utilized in the next reaction without further purification.

reactant | 1-bromopentadecane | 22.4 mmol, 6.5 g | BrCCCCCCCCCCCCCCC | C15H31Br
reactant | triphenylphosphine | 22.4 mmol, 5.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | Pentadecyltriphenylphosphonium Bromide | 12.3 g | [Br-].C(CCCCCCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C33H46P.BrH/c1-2-3-4-5-6-7-8-9-10-11-12-13-23-30-34(31-24-17-14-18-25-31,32-26-19-15-20-27-32)33-28-21-16-22-29-33;/h14-22,24-29H,2-13,23,30H2,1H3;1H/q+1;/p-1
